US08957062B2
Step D: 1-(5-methyl-6-{2-[(1S,2R)-2-piperidin-4-ylcyclopropyl]ethoxy}pyridine-3-yl)imidazolidin-2-one
Benzyl 4-[(1R,2S)-2-(2-{[3-methyl-5-(2-oxoimidazolidin-1-yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate (18 mg, 0.041 mmol) in 1 mL of EtOH was treated with 10% palladium on carbon (10 mg) for 2.5 hrs under 1 atm. of hydrogen gas. The catalyst was filtered off via Gilsen 0.045 μM PTFE syringe filter and the filtrate was concentrated in vacuo to give the product used for the next reaction without further purification. LCMS (ESI) m/z 345 [M+H]+.

reactant | Benzyl 4-[(1R,2S)-2-(2-{[3-methyl-5-(2-oxoimidazolidin-1-yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate | 0.041 mmol, 18 mg | CC=1C(=NC=C(C1)N1C(NCC1)=O)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C27H34N4O4
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 1 mL | CCO | C2H6O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | 1-(5-methyl-6-{2-[(1S,2R)-2-piperidin-4-ylcyclopropyl]ethoxy}pyridine-3-yl)imidazolidin-2-one | CC=1C=C(C=NC1OCC[C@H]1[C@H](C1)C1CCNCC1)N1C(NCC1)=O | C19H28N4O2
